* Copyright (c) 1998-2023 Analog Devices, Inc.  All rights reserved.
*
.subckt AD8336 1 2 3 4 5 6 7 8 9 10 11
C1 2 3 1p Rpar=1G Noiseless
C4 6 3 1f Rpar=1G Noiseless
C5 7 3 1f Rpar=1.28k Noiseless
C6 8 3 1p Rpar=1G
C7 9 3 1p Rpar=1G Noiseless
C8 10 3 1p Rpar=1G Noiseless
C9 11 3 1p Rpar=1G
R5 N036 8 1µ Noiseless
R6 N034 11 1µ Noiseless
G3 N034 N036 Vimon 3 1
R9 Vimon 3 1k Noiseless
Vimon Zo_out 1 0
F1 3 Vimon Vimon 1m
C16 Vimon 3 1.59f
A1 2 N032 3 3 3 PWR 3 3 SCHMITT Vt=0 Vh=0.4 Trise=10n
C17 PWR 3 1p Rpar=1G Noiseless
B1 3 N032 I=1m*table(V(11,3),(0,0),(3,1.1),(5,1.6),(12,3.6))
C18 N032 3 1p Rpar=1k Noiseless
Biq_lo N034 N036 I=IF(V(11,3)>=12, 16m,14m)
Biq_norm N034 N036 I=IF(V(PWR,3)<0.5,1p, (IF(V(11,3)>=5,12m,11m)))
G4 3 VGAIN 9 10 1m
C19 VGAIN 3 1p Rpar=1k Noiseless
G5 3 Vs 11 8 1m
R10 Vs 3 1k Noiseless
A2 VminGD 3 3 3 VmaxGD 3 EN 3 AND Trise=5n
R11 EN 3 1G Noiseless
R12 VmaxGD 3 1G Noiseless
R13 3 VminGD 1G Noiseless
A3 Vs 3 3 3 3 3 VminGD 3 SCHMITT Vt={Vsmin-50m} Vh=10m Trise=10n Tfall=10n
A4 Vs 3 3 3 3 VmaxGD 3 3 SCHMITT Vt={Vsmax+50m} Vh=10m Trise=10n Tfall=10n
R14 N001 4 {Rser} Noiseless
R15 N011 5 {Rser} Noiseless
Cinp 3 N001 {Ccm}
Cinn N011 3 {Ccm}
Rinn N011 3 {Rcm} Noiseless
Rinp 3 N001 {Rcm} Noiseless
Rdiff N001 N011 {Rdiff} Noiseless
C2 ATN 3 50p Rpar=1k Noiseless
B3 3 ATNout I=1m*V(7,3)*V(ATN,3)
C3 ATNout 3 1f Rpar=1k Noiseless
I3 N011 3 {Ib}
I2 N001 3 {Ib}
R8 N003 N001 1m Noiseless
I4 N001 N003 {1k*Vos}
G6 3 N005 N003 3 1k
G7 3 N009 N011 3 1m
C20 N009 3 1.59f
C21 N005 3 1.59p
R18 N005 3 1m Noiseless
R19 N009 3 1k Noiseless
S2 11 N005 N005 11 ESDI
S3 11 N009 N009 11 ESDI
S4 N005 8 8 N005 ESDI
S5 N009 8 8 N009 ESDI
B4 3 Aol2 I=Uplim(Dnlim({Aol2/1Meg}*V(Aol1,3), {Isink},1m),{Isrc},1m)
A5 N009 N005 3 3 3 3 Aol1 3 OTA G=100u Iout=1m Vhigh=1k Vlow=-1k En=2.6n
C11 Aol1 3 1.59e-18
S6 3 Aol2 EN 3 ENA
S7 3 Aol1 EN 3 ENA
C12 Aol2 3 {Cfp1}
R1 N006 3 1Meg Noiseless
C13 N006 3 {Cfp2}
G1 3 N006 Aol2 3 1µ
Rx_pre 6 N008 {Rx_Zo_pre} Noiseless
Rdummy_pre 6 3 {Rdummy_Zo_pre} Noiseless
B5 3 N008 I=Uplim(Dnlim({G1_Zo_pre}* V(Zo_in_pre,6), {IZon_pre}, 25m), {IZop_pre}, 25m)
R7 Zo_in_pre Aol_m_pre 1µ
S10 3 N008 EN 3 ENZ
R2 Zo_out N029 4.48k Noiseless
R3 N029 3 91.43 Noiseless
Rx Zo_out N022 {Rx_Zo} Noiseless
Rdummy Zo_out 3 {Rdummy_Zo} Noiseless
R4 N022 3 1 Noiseless
R20 Aol1o 3 1Meg Noiseless
C10 Aol1o 3 5e-18
G8 3 Aol1o N018 N029 100µ
R21 Clamp 3 1Meg Noiseless
C14 Clamp 3 2p
R16 N020 3 1k Noiseless
C15 N020 3 {C2}
G2 3 N020 Clamp 3 1m
R17 N021 3 1k Noiseless
G10 3 N021 N020 3 1m
R22 Zo_in 3 1k Noiseless
G11 3 Zo_in N021 3 1m
R23 ATNfilt 3 R=1k*V(RATN,3)
C24 ATNfilt 3 100f
C22 N021 3 {C2}
C23 Zo_in 3 {C2}
B6 3 ATN I=1m*Table(V(Vgain,3), -0.7, 1m, -0.5, 1.9m, -0.2, 11m, 0, 35m, 0.2, 105m, 0.5, 0.6, 0.7, 1)
C25 RATN 3 1n Rpar=1 Noiseless
B7 3 ATNfilt I=V(ATNout,3)*(1m/V(RATN,3))
S14 11 1 1 11 ESDO
S15 1 8 8 1 ESDO
C27 3 N002 70p
S16 Aol2 N002 PWR 3 ENA
R27 Aol_m_pre 3 1 Noiseless
G13 3 Aol_m_pre N007 3 1
R28 N007 3 1Meg Noiseless
C30 N007 3 {Cfp3}
G14 3 N007 N006 3 1µ
I5 9 10 1µ
D§BGP 3 VGAIN VG
D§VGN VGAIN 3 VG
G15 3 PSRR Vs 3 200µ
R29 PSRR 3 1 Noiseless
C31 PSRR 3 1p
G16 3 N015 ATNfilt 3 1k
C32 N015 3 1.59p
R30 N015 3 925µ Noiseless
R31 N017 N016 1k Noiseless
G17 N017 N016 PSRR 3 1m
D§VGP1 11 6 VO
D§VGN1 6 8 VO
B8 3 Vsat I=1m*({msat}*V(Vs,3)+{bsat}) Rpar=1k Cpar=1n
D§VOP N024 Zo_out VO
D§VON Zo_out N025 VO
B11 N026 11 I=1m*V(Vsat,3) Rpar=1k Cpar=1n
B9 8 N027 I=1m*V(Vsat,3) Rpar=1k Cpar=1n
G18 3 N025 N027 3 1k
C33 N025 3 1n Rpar=1m
C34 Zo_out N025 1f
C35 N024 3 1n Rpar=1m
G19 3 N024 N026 3 1k
C36 Zo_out N024 1f
B10 3 Iscp I=1m*Uplim(({miscp}*V(Vs,3)+{biscp}),123m, 1m) Rpar=1k Cpar=1n
B_Zo 3 N022 I=Limit({G1_Zo}* V(Zo_in,Zo_out), {Izon}, V(Iscp,3)*{Rx_Zo})
R34 N018 N017 1k Noiseless
B12 3 Voso I=1m*({mvos}*V(Vs,3)+{bvos}) Rpar=1k Cpar=100n
G20 N017 N018 Voso 3 1m
A6 3 N001 3 3 3 3 3 3 OTA In=3p G=0
A7 3 N011 3 3 3 3 3 3 OTA In=3p G=0
R32 Eno 3 100k Noiseless
A8 3 3 3 3 3 3 Eno 3 OTA G=10u Iout=1m En=3.8n Vhigh=1k Vlow=-1k
R35 N016 N015 1k Noiseless
G21 N015 N016 Eno 3 1m
D§VGP2 N014 Clamp GR
D§VGN2 Clamp N013 GR
I6 3 N014 47k
R36 N014 3 1m
R37 N013 3 1m
I7 N013 3 47k
C37 Clamp N014 1f
C38 Clamp N013 1f
C39 N014 3 1n
C40 N013 3 1n
Bsr 3 Clamp I=Uplim(Dnlim(1m*V(Aol1o,3), {Isinko},10u),{Isrco},10u)
B2 3 RATN I=Table(V(Vgain,3), -0.7, 3, -0.5, 10, -0.2, 24, 0, 25, 0.2, 24, 0.5, 28, 0.7, 40)
.param Vsmin=6 Vsmax=24
.param Iscn=-72.5m Izon={Rx_Zo*Iscn}
.param Iscp_pre=50m Iscn_pre=-50m
.param IZop_pre={Rx_Zo_pre*Iscp_pre}
.param IZon_pre={Rx_Zo_pre*Iscn_pre}
.param Ib=725n
.param Vos=600u
.param Rser=1m
.param Ccm=3p Rcm=900k
.param Cdiff=1f Rdiff=1T
.model ENA SW(Ron=1Meg Roff=1u Vt=500m Vh=-100m Noiseless)
.model ENZ SW(Ron=1 Roff=1u Vt=500m Vh=-100m Noiseless)
.model ESDI SW(Ron=50 Roff=1T Vt=700m Vh=-350m Vser=0.1 Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.model VG D(Vfwd=100 Vrev=5 Revepsilon=0.1 Noiseless)
.model VO D(Vfwd=100 Vrev=0 Revepsilon=0.1 Noiseless)
.model GR D(Vfwd=1k Vrev=0 Revepsilon=0.1 Noiseless)
.param Aol2_dB = {Aol_PB-40+1}
.param Aol2 = {pwr(10, (Aol2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Cfp3={1 / (2 * pi * fp3 * 1Meg)}
.param Aol_PB=129.2
.param fp1=4.4k fp2=160Meg fp3=1G
.param Isrc=0.3 Isink=-0.7
.param beta_Zo_pre=1.13
.param Rx_Zo_pre = {100 * Zo_max_pre}
.param Rdummy_Zo_pre = {10 * Zo_max_pre}
.param G1_Zo_pre={Rx_Zo_pre/(Zo_dc_pre*beta_Zo_pre)}
.param Zo_dc_pre=10k
.param Zo_max_pre={Zo_dc_pre}
.param beta_Zo=1.13
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=35
.param Zo_max={Zo_dc}
.param C2=250f
.param msat = 53.57m bsat=964m
.param miscp=-3.64m biscp=159.4m
.param mvos=9.321e-5 bvos=-3.85m
.param Isrco=1.853m Isinko={-Isrco}
.ends AD8336
