* Copyright (c) 1998-2022 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4896-2 1 2 3 4 5
C1 Clamp COM {Cfp1}
B1 COM Clamp I=Uplim(Dnlim({Avo2/1Meg}* V(Avo1,COM), {Isink}, 5m), {Isrc}, 5m)
G2 0 Vcc_Int N040 0 1
G3 0 Vee_Int N046 0 1
R6 Vcc_Int 0 1 Noiseless
R7 Vee_Int 0 1 Noiseless
R8 N038 Vcc_Int 1Meg Noiseless
R9 N038 Vee_Int 1Meg Noiseless
C2 N038 0 1
E1 COM 0 N038 0 1
R10 COM 0 1Meg Noiseless
Cinp COM Inp1 {Ccm}
Cinn Inn1 COM {Ccm}
Cdiff Inp1 Inn1 {Cdiff}
Rinn Inn1 COM {Rcm} Noiseless
Rinp COM Inp1 {Rcm} Noiseless
G14 COM Inn2 Inn1 COM 1m
R43 COM Inn2 1k Noiseless
C12 Inn2 COM 1f
C14 Vcc_Int 0 1n
C15 Vee_Int 0 1n
S3 3 N006 N006 3 ESDI
S4 3 Inn2 Inn2 3 ESDI
S5 N006 4 4 N006 ESDI
S6 Inn2 4 4 Inn2 ESDI
R1 Inp1 1 {Rser} Noiseless
R2 Inn1 2 {Rser} Noiseless
Rdiff Inp1 Inn1 {Rdiff} Noiseless
R13 Vimon COM 1k
C3 Vimon COM 10p
S1 3 5 5 3 ESDO
S2 5 4 4 5 ESDO
G21 N017 N018 N035 N034 1m
R59 N018 N017 1k Noiseless
C27 N031 N032 {C1a_PSRp}
G22 COM N032 Vcc_Int COM {G1_PSRp}
R60 N032 COM 1 Noiseless
R61 N031 N032 {R1a_PSRp} Noiseless
R62 N031 COM {R2a_PSRp} Noiseless
C28 N029 N030 {C1b_PSRp}
R63 N029 COM {R2b_PSRp} Noiseless
R64 N029 N030 {R1b_PSRp} Noiseless
G23 COM N030 N031 COM 1
R66 N030 COM 1 Noiseless
G24 COM N035 N029 COM {G2_PSRp}
R67 N035 COM 1 Noiseless
C29 N024 N023 {C1a_PSRn}
G25 COM N023 Vee_Int COM {G1_PSRn}
R68 N023 COM 1 Noiseless
R70 N024 N023 {R1a_PSRn} Noiseless
R71 N024 COM {R2a_PSRn} Noiseless
G26 COM N017 N009 COM 1k
R72 COM N017 1m Noiseless
G27 COM Inp2 N018 COM 1m
R73 COM Inp2 1k Noiseless
C30 N002 N001 {C1a_CMR}
R58 N001 COM 1 Noiseless
R74 N002 N001 {R1a_CMR} Noiseless
R77 N002 COM {R2a_CMR} Noiseless
G31 COM N001 Inp1 COM {G1_CMR}
G32 N008 N009 N002 COM 1m
R82 N009 N008 1k Noiseless
G33 COM N006 Inp1 COM 1k
R83 COM N006 1m Noiseless
C32 N006 COM 1p
R134 N007 N006 1k Noiseless
B12 N006 N007 I=1m*({Vos+Drift* (Temp-27)})
R135 N008 N007 1k Noiseless
C19 5 COM 2f
DGP N036 Clamp DG
DGN Clamp N037 DG
G28 COM N036 GRpi COM 1k
G41 COM N037 GRni COM 1k
R14 N036 COM 1m Noiseless
R37 N037 COM 1m Noiseless
R42 GRpi COM 1k Noiseless
R48 GRni COM 1k Noiseless
C10 GRni COM 10p
C11 GRpi COM 10p
C18 Clamp N036 1f
C24 Clamp N037 1f
DOP Vsatp N014 DO
DON N014 Vsatn DO
G48 COM Vsatp Satp COM 1k
R11 Vsatp COM 1m
G49 COM Vsatn Satn COM 1k
R49 Vsatn COM 1m
C56 N014 Vsatp 1f
C57 N014 Vsatn 1f
C59 Vsatp COM 1n
C60 Vsatn COM 1n
C61 Avo1 COM 1e-18
R15 N025 N026 {R1b_PSRn} Noiseless
R16 N026 COM {R2b_PSRn} Noiseless
G10 COM N027 N026 COM {G2_PSRn}
C6 N026 N025 {C1b_PSRn}
R17 N027 COM 1 Noiseless
R25 N027 N028 {R1c_PSRn} Noiseless
R26 N028 COM {R2c_PSRn} Noiseless
G11 COM N034 N028 COM {G3_PSRn}
C20 N028 N027 {C1c_PSRn}
R27 N034 COM 1 Noiseless
G12 COM N025 N024 COM 1
R28 N025 COM 1 Noiseless
R3 E_n COM 100k Noiseless
A9 COM COM COM COM COM COM E_n COM OTA G=10u Iout=1m En={En} Enk={Enk} Vhigh=1k Vlow=-1k
G4 N007 N008 E_n COM 1m
A10 COM COM COM COM COM COM N041 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fAi}/(freq**{Mi})
R4 N041 COM 100k Noiseless
A14 COM N041 COM COM COM COM N042 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={BBi}
R12 N042 COM 100k Noiseless
G15 COM N043 N042 COM 1
RI_np N044 COM 1 Noiseless
A15 COM COM COM COM COM COM N047 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fAi}/(freq**{Mi})
R30 N047 COM 100k Noiseless
A16 COM N047 COM COM COM COM N048 COM OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={BBi}
R31 N048 COM 100k Noiseless
G16 COM N049 N048 COM 1
RI_nn N050 COM 1 Noiseless
B6 Satp 3 I=1m*Max(Mp*(V(Vimon, COM))+OSp,OSp)
R45 Satp 3 1k
C4 Satp 3 1n
B7 4 Satn I=1m*Max(Mn*(-V(Vimon, COM))+OSn,OSn)
R46 Satn 4 1k
C21 Satn 4 1n
I2 Inn1 COM {Ib-Ios}
B2 Inp1 COM I={Ib+Ibdrift* (Temp-27)}
I1 N040 N046 {Iq_on}
R32 Avo1 COM 1Meg Noiseless
R33 Clamp COM 1Meg Noiseless
G7 COM Avo1 Inp2 Inn2 100µ
DIP 3 Inp2 DIP
DIN Inp2 4 DIN
DOI N014 N015 LIM
COI N015 N014 1p
Vin N049 N050 0
Vip N043 N044 0
F1 Inp1 COM Vip 1
F2 Inn1 COM Vin 1
C8 COM 1 1f
R24 N019 COM 1Meg Noiseless
G5 COM N019 Clamp COM 1µ
C13 N019 COM {Cfp2}
R29 N010 COM 1
R34 N010 N011 {R1a_Avo} Noiseless
R35 N011 COM {R2a_Avo} Noiseless
G13 COM N012 N011 COM {G1_Avo}
C22 N011 N010 {C1a_Avo}
G17 COM N010 N020 COM 1
R38 N012 COM 1 Noiseless
R39 N005 COM 1
R40 N012 N013 {R1b_Avo} Noiseless
R41 N013 COM {R2b_Avo} Noiseless
G18 COM N005 N013 COM {G2_Avo}
C23 N013 N012 {C1b_Avo}
R44 N020 COM 1Meg Noiseless
G19 COM N020 N019 COM 1µ
C25 N020 COM {Cfp3}
R47 N004 N003 {R2x_Avo} Noiseless
R50 N003 N005 {R1x_Avo} Noiseless
Rx1 N021 N005 {Rx_Avo} Noiseless
Cx1 N021 COM {Cx_Avo}
R51 N014 COM {Zo_dc} Noiseless
G20 COM N014 N004 COM {1/Zo_dc}
G1 COM N004 N021 N003 1Meg
R5 COM N004 1 Noiseless
R18 N040 3 1µ Noiseless
R20 N046 4 1µ Noiseless
Vimon N015 5 0
F4 COM Vimon Vimon 1m
F5 N040 N046 Vimon 1
I3 COM GRpi 13m
I4 GRni COM 13m
.param Vos=-35.3u Drift=0.2u
.param Ib=-11u Ios=-25.6n
.param Ibdrift=3n
.param Vcm_min=0.1 Vcm_max=-0.9
.param Iscp=135m Iscn=-135m
.param Iq_on=3m
.model LIM D(Vfwd=1n Vrev=1n Ron=1m Roff=1m Ilimit={Iscp} Revilimit={-Iscn} Epsilon=1u Noiseless)
.model DIP D(Vfwd=100 Vrev={Vcm_max} Revepsilon=0.1 Noiseless)
.model DIN D(Vfwd=100 Vrev={-Vcm_min} Revepsilon=0.1 Noiseless)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model DG D(Vfwd=8k Vrev=0 Revepsilon=0.5 Ron=1m Noiseless)
.model ESDI SW(Ron=50 Roff=1T Vt=0.5 Vh=-0.1 Vser=0.1 Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6 Ilimit=4m Lser=1n Noiseless)
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=125
.param R1a_PSRp=100k
.param fz1_PSRp=11k
.param fp1_PSRp=65Meg
.param C1b_PSRp = {1 / (2 * pi * R1b_PSRp * fz2_PSRp)}
.param R2b_PSRp = {R1b_PSRp/ ((2 * pi * fp2_PSRp * C1b_PSRp
+* R1b_PSRp) - 1)}
.param actual2_PSRp = {R2b_PSRp / (R1b_PSRp + R2b_PSRp)}
.param G2_PSRp = {1/actual2_PSRp}
.param R1b_PSRp=100k
.param fz2_PSRp=900k
.param fp2_PSRp={fp1_PSRp}
.param gain_PSRn = {pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param Rej_dc_PSRn=121
.param R1a_PSRn=1Meg
.param fz1_PSRn=1k
.param fp1_PSRn=90Meg
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=120
.param R1a_CMR=100Meg
.param fz1_CMR=2.5k
.param fp1_CMR=105Meg
.param Avo=109.4
.param SRp=138 SRn={-SRp}
.param fp1=390 fp2=12Meg fp3=90Meg
.param Rser=1m
.param Ccm=3p Rcm=10Meg
.param Cdiff=11p Rdiff=10k
.param R1b_PSRn=1Meg
.param fz2_PSRn=18k
.param fp2_PSRn=125k
.param C1b_PSRn={1 / (2 * pi * R1b_PSRn * fz2_PSRn)}
.param R2b_PSRn = {R1b_PSRn/ ((2 * pi * fp2_PSRn * C1b_PSRn
+* R1b_PSRn) - 1)}
.param actual2_PSRn = {R2b_PSRn / (R1b_PSRn + R2b_PSRn)}
.param G2_PSRn= {1/actual2_PSRn}
.param R1c_PSRn=1Meg
.param fz3_PSRn=99G
.param fp3_PSRn=100G
.param C1c_PSRn={1 / (2 * pi * R1c_PSRn * fz3_PSRn)}
.param R2c_PSRn = {R1c_PSRn/ ((2 * pi * fp3_PSRn * C1c_PSRn
+* R1c_PSRn) - 1)}
.param actual3_PSRn = {R2c_PSRn / (R1c_PSRn + R2c_PSRn)}
.param G3_PSRn= {1/actual3_PSRn}
.param En=1.03n Enk=45
.param BBi=2.72p fCi=105 Mi=.55 fAi={BBi*(fCi**Mi)}
.param Mp=5.43 OSp=13.06m
.param Mn=2.99 OSn=15.12m
.param Avo2_dB = {Avo-40+1}
.param Avo2 = {pwr(10, (Avo2_dB)/20)}
.param Cfp1={1 / (2 * pi * fp1 * 1Meg)}
.param Cfp2={1 / (2 * pi * fp2 * 1Meg)}
.param Cfp3={1 / (2 * pi * fp3 * 1Meg)}
.param Isrc = {Cfp1 * SRp * 1Meg} Isink = {Cfp1 * SRn * 1Meg}
.param R1a_Avo=1Meg
.param fz1_Avo=15Meg
.param fp1_Avo=400Meg
.param C1a_Avo = {1 / (2 * pi * R1a_Avo * fz1_Avo)}
.param R2a_Avo = {R1a_Avo/ ((2 * pi * fp1_Avo * C1a_Avo
+* R1a_Avo) - 1)}
.param actual1_Avo = {R2a_Avo / (R1a_Avo + R2a_Avo)}
.param G1_Avo={1/actual1_Avo}
.param R1b_Avo=1Meg
.param fz2_Avo=110Meg
.param fp2_Avo=100G
.param C1b_Avo = {1 / (2 * pi * R1b_Avo * fz2_Avo)}
.param R2b_Avo = {R1b_Avo/ ((2 * pi * fp2_Avo * C1b_Avo
+* R1b_Avo) - 1)}
.param actual2_Avo = {R2b_Avo / (R1b_Avo + R2b_Avo)}
.param G2_Avo={1/actual2_Avo}
.param Rx_Avo=1k
.param R2x_Avo=10k
.param fpx_Avo=99G
.param fzx_Avo=370Meg
.param Cx_Avo={1/(2*pi*Rx_Avo*fpx_Avo)}
.param R1x_Avo={(fzx_Avo*R2x_Avo)/fpx_Avo}
.param Zo_dc=20
.ends ADA4896-2
